*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: sram_6t_tb
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'

.param VDD_VAL=0.8
.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/h/hrajesh/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/h/hrajesh/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Fri Mar 28 17:18:36 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : sram_6t
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt sram_6t bl bl_bar gnd_1 vdd wl
m1 vdd q ~q pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m0 q ~q vdd pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m5 bl wl q nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m6 ~q wl bl_bar nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m3 ~q q gnd_1 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m2 q ~q gnd_1 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
.ends sram_6t

********************************************************************************
* Library          : group8
* Cell             : sram_6t_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 bl blb gnd! vdd! wl sram_6t
v12 vdd! gnd! dc='VDD_VAL'
v15 wl gnd! dc=0 pulse ( 0 'VDD_VAL' 10p 5p 5p 45p 100p )
v18 bl gnd! dc=0.8 pwl ( 0 0.8 5p 0 65p 0.0 70p 0.8 100p 0.8 105p 0.8 165p 0.8 170p 0
+  )
v19 blb gnd! dc=0.8 pwl ( 0 0.8 95p 0.8 100p 0.0 )


.ic  v(blb)=0.8  v(bl)=0.8  v(xi0.q)=0.8






.tran 0.1p 200p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(bl) v(blb) v(xi0.q) v(xi0.~q) v(wl)








.end
