*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: static_row_decoder_3by8
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'

.param VDD_VAL=0.8
.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Thu Mar 27 18:51:42 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : nand_i3
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt nand_i3 a b c out
m4 out a net8 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m3 net8 b net5 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m2 net5 c gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m7 out c vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m6 out b vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m5 out a vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
.ends nand_i3

********************************************************************************
* Library          : group8
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inv in out
m0 out in vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m1 out in gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
.ends inv

********************************************************************************
* Library          : group8
* Cell             : static_row_decoder_3by8
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi52 a2 net66 net67 net61 nand_i3
xi53 a2 net66 a0 net62 nand_i3
xi54 a2 a1 net67 net63 nand_i3
xi55 a2 a1 a0 net64 nand_i3
xi39 net80 a1 a0 net68 nand_i3
xi38 a1 a1 net67 net60 nand_i3
xi37 net80 net66 a0 net59 nand_i3
xi36 net80 net66 net67 net58 nand_i3
xi18 a0 net67 inv
xi17 a1 net66 inv
xi16 a2 net80 inv
xi44 net58 y0 inv
xi45 net59 y1 inv
xi46 net60 y2 inv
xi51 net64 y7 inv
xi50 net63 y6 inv
xi49 net62 y5 inv
xi48 net61 y4 inv
xi47 net68 y3 inv
v58 a0 gnd! dc=0 pulse ( 'VDD_VAL' 0 0 5p 5p 20p 50p )
v57 a1 gnd! dc=0 pulse ( 'VDD_VAL' 0 0 5p 5p 45p 100p )
v56 a2 gnd! dc=0 pulse ( 'VDD_VAL' 0 0 5p 5p 95p 200p )
v63 vdd! gnd! dc='VDD_VAL'









.tran 0.1p 200p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(a0) v(a1) v(a2) v(y0) v(y1) v(y2) v(y3) v(y4) v(y5) v(y6) v(y7)








.end
