*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: tspc_neg_ff_tb
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'

.param VDD_VAL=0.8
.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/s/svkolach/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Fri Mar 28 18:04:55 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : tspc_neg_ff
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt tspc_neg_ff d qbar phi
m3 qbar y gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m2 y phi gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m1 net4 d gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m0 x phi net4 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m8 net26 y vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m7 qbar phi net26 pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m6 y x net19 pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m5 net19 phi vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m4 x d vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
.ends tspc_neg_ff

********************************************************************************
* Library          : FreePDK3_examples
* Cell             : inverter
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inverter a out
m9 out a vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m8 out a gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
.ends inverter

********************************************************************************
* Library          : group8
* Cell             : tspc_neg_ff_tb
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 d qbar phi tspc_neg_ff
v2 vdd! gnd! dc='VDD_VAL'
v7 phi gnd! dc=0 pulse ( 'VDD_VAL' 0 0 2p 2p 8p 20p )
v6 d gnd! dc=0 pulse ( 'VDD_VAL' 0 0 5p 5p 20p 50p )
xi8 qbar q inverter









.tran 0.1p 200p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(d) v(q) v(phi)








.end
